US07906532B2
Step 1. 1-tert-Butyl 2-methyl (2S,4S)-4-{[(1-isopropyl-1H-indazol-3-yl)carbonyl]amino}pyrrolidine-1,2-dicarboxylate
To a stirred solution of 1-isopropyl-1H-indazole-3-carboxylic acid (300 mg, 1.47 mmol) and 1-tert-butyl 2-methyl (2S,4S)-4-aminopyrrolidine-1,2-dicarboxylate (396 mg, 1.62 mmol, Bioorg. Med. Chem., 2002, 10, 1399-1415) in N,N-dimethylformamide (15 mL) were added diethyl cyanophosphonate (0.27 mL, 1.76 mmol) and N,N-diisopropylethylamine (0.31 mL, 1.76 mmol) at room temperature. The resulting mixture was stirred for 14 h at the same temperature and concentrated under reduced pressure. The resulting residue was diluted with ethyl acetate (200 mL), and the solution was washed with water (50 mL×2), brine (50 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (3:1) to give 618 mg (98%) of the title compound as a white amorphous solid.

reactant | 1-isopropyl-1H-indazole-3-carboxylic acid | 1.47 mmol, 300 mg | C(C)(C)N1N=C(C2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | 1-tert-butyl 2-methyl (2S,4S)-4-aminopyrrolidine-1,2-dicarboxylate | 1.62 mmol, 396 mg | N[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H20N2O4
reactant | diethyl cyanophosphonate | 1.76 mmol, 0.27 mL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | N,N-diisopropylethylamine | 1.76 mmol, 0.31 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1-tert-Butyl 2-methyl (2S,4S)-4-{[(1-isopropyl-1H-indazol-3-yl)carbonyl]amino}pyrrolidine-1,2-dicarboxylate | 618 mg, 98% | C(C)(C)N1N=C(C2=CC=CC=C12)C(=O)N[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C22H30N4O5
